US07943622B2
Step 2. Synthesis of phenyl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of 4-tert-butyl 1-phenyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate TFA salt (108.2 mg, 0.205 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 72.3 mg (91%) of the desired product as a white solid. LC-MS: RT=3.89 min, [M+H]+=314.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 4-tert-butyl 1-phenyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate TFA salt | 0.205 mmol, 108.2 mg | OC(=O)C(F)(F)F.N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1=CC=CC=C1
solvent | MeOH | 1 mL | CO | CH4O
product | phenyl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate dihydrochloride | 72.3 mg, 91% | Cl.Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C(=O)OC1=CC=CC=C1 | InChI=1S/C17H19N3O3.2ClH/c21-17(23-15-5-2-1-3-6-15)20-10-9-19-11-14(20)13-22-16-7-4-8-18-12-16;;/h1-8,12,14,19H,9-11,13H2;2*1H
